US08461134B2
To a solution of 6-amino-3H-benzo[c][1,2]oxaborol-1-ol (0.59 g, 3.9 mmol) and N-methylmorpholine (2.53 g, 25 mmol) in MeCN (70 mL) was added 2-(2-methoxyethyl)-4-nitrobenzene-1-sulfonyl chloride (1.4 g, 5 mmol) in MeCN (20 mL) at 0° C., then the solution was stirred at room temperature overnight. The mixture was concentrated in vacuo, and ethyl acetate and water was added to the residue. The organic layer was dried over Na2SO4 and concentrated to give the crude product. The crude product was purified by silica gel column chromatography (petroleum ether/ethyl acetate=10:1 to 0:1) to give N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-methoxyethyl)-4-nitrobenzene sulfonamide (1 g, yield 50%).

reactant | 6-amino-3H-benzo[c][1,2]oxaborol-1-ol | 3.9 mmol, 0.59 g | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | N-methylmorpholine | 25 mmol, 2.53 g | CN1CCOCC1 | C5H11NO
reactant | 2-(2-methoxyethyl)-4-nitrobenzene-1-sulfonyl chloride | 5 mmol, 1.4 g | COCCC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C9H10ClNO5S
solvent | MeCN | 70 mL | CC#N | C2H3N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-methoxyethyl)-4-nitrobenzene sulfonamide | 1 g, yield 50% | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])CCOC | C16H17BN2O7S
